US05506267
4-(vinylsulfonylaminomethyl)benzoyl-glutamic acid di-t-butyl ester
4-(aminomethyl)benzoyl-glutamic acid di-t-butyl ester hydrochloride as obtained in Reference Example 37 (255 mg) and triethylamine (0.27 ml) were dissolved in dichloromethane (4 ml). To this solution, a solution of chloroethylsulfonyl chloride (161 mg) in dichloromethane (4 ml) was added drop by drop under ice cooling conditions over a period of about 15 minutes, followed by stirring at the same ternperature for 30 minutes. To the mixture, ice water (12 ml). and chloroform (10 ml) were added, followed by vigorous stirring, after which the organic layer was separated, and concentrated to dryness under reduced pressure. The resulting residue was purified by silica gel column chromatography (methanol:chloroform=1:99) to yield the title compound (172 mg, yield 58.3%) as a colorless solid.

reactant | 4-(aminomethyl)benzoyl-glutamic acid di-t-butyl ester hydrochloride | Cl.C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)CN)=O)CCC(=O)OC(C)(C)C)=O
reactant | triethylamine | 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | chloroethylsulfonyl chloride | 161 mg | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 4-(vinylsulfonylaminomethyl)benzoyl-glutamic acid di-t-butyl ester | 172 mg, yield 58.3% | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)CNS(=O)(=O)C=C)=O)CCC(=O)OC(C)(C)C)=O | C23H34N2O7S
